US05324804
I.3. 3,4-Bis(tert-butoxycarbonyloxy)styrene
38 g (0.28 mol) 3,4-dihydroxstyrene are dissolved in 1 l of tetrahydrofuran and the solution is cooled to 5° C. With stirring and cooling, 63 g (0.56 mol) of potassium tert-butylate are added over 20 min in increments such that the temperature of the mixture remains between 5° C. The mixture is stirred for 1 h at room temperature. Then a solution of 135.3 g (0.62 mol) of di-tert-butylcarbonate in a small amount of THF is added dropwise. After stirring for c. 3 h at room temperature, analysis by thin-layer chromatography (hexane/ethyl acetate 4:1) indicates the end of the reaction. The reaction mixture is poured on to 2 kg of ice and extracted twice with diethyl ether. The organic phase is washed twice with 1N NaOH and then with water, and dried. The solvent is then removed by distillation on a rotary evaporator. The viscous residue is purified by column chromatography (silica gel, hexane/ethyl acetate 4:1).

reactant | potassium tert-butylate | 0.56 mol, 63 g | CC(C)(C)[O-].[K+]
reactant | di-tert-butylcarbonate | 0.62 mol, 135.3 g | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 1 l | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
product | 3,4-Bis(tert-butoxycarbonyloxy)styrene | C(C)(C)(C)OC(=O)OC=1C=C(C=C)C=CC1OC(=O)OC(C)(C)C | C18H24O6
